US07459562B2
G) tert-Butyl 3-ethyl-4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-2-ylcarbamate
The title compound was prepared from tert-butyl 4-(4-amino-2-fluorophenoxy)-3-ethylpyridin-2-ylcarbamate (20 mg, 0.058 mmol) and 0.3 M solution of 2-(4-fluorophenyl)acetyl isocyanate in toluene (232 μL, 0.070 mmol) in THF in the same manner as Step D of Example 33. MS(ESI+): m/z 527.31 (M+H)+.

reactant | tert-butyl 4-(4-amino-2-fluorophenoxy)-3-ethylpyridin-2-ylcarbamate | 0.058 mmol, 20 mg | NC1=CC(=C(OC2=C(C(=NC=C2)NC(OC(C)(C)C)=O)CC)C=C1)F | C18H22FN3O3
reactant | 2-(4-fluorophenyl)acetyl isocyanate | FC1=CC=C(C=C1)CC(=O)N=C=O | C9H6FNO2
reactant | toluene | 0.070 mmol, 232 μL | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | tert-Butyl 3-ethyl-4-(2-fluoro-4-(3-(2-(4-fluorophenyl)acetyl)ureido)phenoxy)pyridin-2-ylcarbamate | C(C)C=1C(=NC=CC1OC1=C(C=C(C=C1)NC(=O)NC(CC1=CC=C(C=C1)F)=O)F)NC(OC(C)(C)C)=O | C27H28F2N4O5
